US06495645B1
Next, 50 g of β-aminobutyric acid benzyl ester·p-toluenesulfonate were dispersed in 300 ml of ether containing 54.3 ml of triethylamine. To this dispersion were slowly added 12.7 ml of acryloyl chloride at 0° C. and stirred for 2 hours. The ether layer was recovered, condensed and purified by silica gel chromatography to obtain 19.59 g of the desired 2-(benzyloxycarbonyl)isopropyl acrylamide as a white crystal. The synthesis was confirmed by 1H-NMR spectrometry and elementary analysis. The results of the 1H-NMR spectrometry and the elementary analysis are set forth below. The underlined portion shows the position of the corresponding proton in the compound.

reactant | β-aminobutyric acid benzyl ester·p-toluenesulfonate | 50 g | C(C1=CC=CC=C1)OC(CC(C)N)=O.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 12.7 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2-(benzyloxycarbonyl)isopropyl acrylamide | 19.59 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)N)=CC(C)C | C14H17NO3
